US04303655
A mixture of 2-amino-1,3-thiazole, which can be represented as 2-imino-2,3-dihydro-1,3-thiazole, (36.3 g.), glyoxylic acid hydrate (50 g.) and 1 N sodium hydroxide (543 ml.) was stirred for 1.5 hours at 90° to 93° C. After the reaction, the reaction mixture was treated with an activated charcoal and then adjusted to pH 3. The mixture was allowed to stand overnight under ice-cooling. The precipitates were collected by filtration, washed with water and then dried to give 2-hydroxy-2-(2-amino-1,3-thiazol-5-yl)acetic acid hydrate, which can be represented as 2-hydroxy-2-(2-amino-2,3-dihydro-1,3-thiazol-5-yl)acetic acid hydrate (48.1 g.), mp. 140° to 200° C. (dec.)

reactant | 2-amino-1,3-thiazole | NC=1SC=CN1 | C3H4N2S
reactant | 2-imino-2,3-dihydro-1,3-thiazole | 36.3 g | N=C1SC=CN1 | C3H4N2S
reactant | glyoxylic acid hydrate | 50 g | O.C(C=O)(=O)O
reactant | sodium hydroxide | 1 N, 543 ml | [OH-].[Na+]
reactant | charcoal | C | CH4
product | 2-hydroxy-2-(2-amino-1,3-thiazol-5-yl)acetic acid hydrate | O.OC(C(=O)O)C1=CN=C(S1)N | InChI=1S/C5H6N2O3S.H2O/c6-5-7-1-2(11-5)3(8)4(9)10;/h1,3,8H,(H2,6,7)(H,9,10);1H2
